US09238658B2
To a suspension of 4,5,6,7-tetrahydro-4-oxo-pyrazolo[1,5-a]pyrazine-2-carboxylic acid (181 mg, 1.0 mmol) in THF (15 mL) was added diphenylphosphoryl azide (0.25 mL, 1.0 mmol) and Et3N (0.28 mL. 2.0 mmol). The resulting mixture was heated to reflux for 6 h and cooled to room temperature. Then 6-fluoro-1-(piperidin-4-yl)indoline (88 mg, 0.4 mmol) and Et3N (0.14 mL, 1.0 mmol) were added sequentially. The resulting mixture was stirred at room temperature for 24 h and concentrated. The resulting residue was purified by chromatography using EtOAc, then 2-5% MeOH/EtOAc as the eluent to yield 4-(6-fluoroindolin-1-yl)-N-(4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl)piperidine-1-carboxamide.

reactant | 4,5,6,7-tetrahydro-4-oxo-pyrazolo[1,5-a]pyrazine-2-carboxylic acid | 1.0 mmol, 181 mg | O=C1C=2N(CCN1)N=C(C2)C(=O)O | C7H7N3O3
reactant | diphenylphosphoryl azide | 1.0 mmol, 0.25 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Et3N | 2.0 mmol, 0.28 mL | CCN(CC)CC | C6H15N
reactant | 6-fluoro-1-(piperidin-4-yl)indoline | 0.4 mmol, 88 mg | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
reactant | Et3N | 1.0 mmol, 0.14 mL | CCN(CC)CC | C6H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(6-fluoroindolin-1-yl)-N-(4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC1=NN2C(C(NCC2)=O)=C1 | C20H23FN6O2
